US05739336
A mixture of 5-chloro-1-iodobutane (30 g, 137.6 mmol), ether (300 mL) and pentane (500 mL) was cooled to approximately -65° C. and then tert-butyllithium (1.7M, 160 mL, 0.27 moles) was added over 30 minutes such that the reaction mixture remained below approximately -55° C. The mixture was cooled 1 hour with stirring at -65° C. to -60° C. and then N-methoxy-N-methyl-5-chloro-2-methoxybenzamide (25 g, 0.11 mol), prepared as in Example 4, in THF (approximately 80 mL) was added. The mixture was diluted with additional ether (300 mL), allowed to warm to 10° C. and then combined with saturated ammonium chloride. The organic layer was separated, dried (K2CO3), filtered and concentrated. The residue was purified by column chromatography eluding with hexane/ethyl acetate (9:1 to 85:15) to give 5-chloro-1-(5-chloro-2-methoxy-phenyl)-1-pentanone, m.p. 52°-54° C.

reactant | pentane | 500 mL | CCCCC | C5H12
reactant | tert-butyllithium | 0.27 moles, 1.7M, 160 mL | C(C)(C)(C)[Li]
reactant | N-methoxy-N-methyl-5-chloro-2-methoxybenzamide | 0.11 mol, 25 g | CON(C(C1=C(C=CC(=C1)Cl)OC)=O)C | C10H12ClNO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | approximately 80 mL | C1CCOC1 | C4H8O
solvent | ether | 300 mL | CCOCC | C4H10O
solvent | ether | 300 mL | CCOCC | C4H10O
product | 5-chloro-1-(5-chloro-2-methoxy-phenyl)-1-pentanone | ClCCCCC(=O)C1=C(C=CC(=C1)Cl)OC | C12H14Cl2O2
